US07652051B2
Synthesis of 4-(5-{[2-chloro-5-(trifluoromethyl)phenyl]amino}-1,3,4-oxadiazol-2-yl)phenol
Mercury (II) oxide yellow (1.82 g, 8.41 mmol) was suspended in ca. 50 mL of anhydrous methanol. 4-Hydroxybenzoic acid hydrazide (1.28 g, 8.41 mmol) was added to this bright-orange suspension, followed by 2-chloro-5-trifluoromethyl-phenylisothiocyanate (2.0 g, 8.41 mmol). The reaction mixture was brought to reflux and refluxed for 2 hours. The reaction mixture turned pitch-black in color and formed black precipitate. Then it was cooled down to ambient temperature and filtered through a short pad of Celite, then through a short pad of silica gel. Then methanol was removed in vacuo and the resulting grey solid was re-crystallized from ca. 20 mL of EtOAc. The formed white precipitate was filtered, washed with anhydrous Et2O and dried in vacuo to give the title product as a white solid (2.638 g). Yield 88.1%

reactant | 4-Hydroxybenzoic acid hydrazide | 8.41 mmol, 1.28 g | OC1=CC=C(C(=O)NN)C=C1 | C7H8N2O2
reactant | 2-chloro-5-trifluoromethyl-phenylisothiocyanate | 8.41 mmol, 2.0 g | ClC1=C(C=C(C=C1)C(F)(F)F)N=C=S | C8H3ClF3NS
solvent | methanol | ca. 50 mL | CO | CH4O
catalyst | Mercury (II) oxide yellow | 8.41 mmol, 1.82 g | O=[Hg]
product | 4-(5-{[2-chloro-5-(trifluoromethyl)phenyl]amino}-1,3,4-oxadiazol-2-yl)phenol | 2.638 g, Yield 88.1% | ClC1=C(C=C(C=C1)C(F)(F)F)NC1=NN=C(O1)C1=CC=C(C=C1)O | C15H9ClF3N3O2
